US07968581B2
Step 5: 4-[2,5-Dioxo-4-hydroxymethyl-3-methyl-4-phenylimidazolidin-1-yl]-2-trifluoromethyl-benzonitrile
To a solution of 0.52 g of 4-[2,5-dioxo-3-methyl-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile in 40 mL of dichloromethane is added 2 mL of trifluoroborane-dimethylsulfide complex in 10 mL of dichloromethane. The mixture is stirred at rt for 3 hours and poured into a saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and evaporated. The crude product is purified by chromatography over silica gel while eluting with 70/30 heptane/ethyl acetate mixture to provide the desired product.

reactant | 4-[2,5-dioxo-3-methyl-4-phenyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 0.52 g | O=C1N(C(C(N1C)(COCC=C)C1=CC=CC=C1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C22H18F3N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[2,5-Dioxo-4-hydroxymethyl-3-methyl-4-phenylimidazolidin-1-yl]-2-trifluoromethyl-benzonitrile | O=C1N(C(C(N1C)(C1=CC=CC=C1)CO)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C19H14F3N3O3
